US05244908
(1) Synthesis of 1-methylsulfonyl-4-methylsulfonyloxypiperidine
To a solution of 4-hydroxypiperidine (5.10 g, 50 mmoles) and triethylamine (20.9 ml, 150 mmoles) in methylene chloride (150 ml) was added methanesulfonyl chloride (8.54 ml, 110 mmoles) with stirring under ice-cooling and the mixture was stirred at room temperature for 1 hour. The reaction mixture was washed in turn with an aqueous saturated sodium bicarbonate solution and saturated saline and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was solidified with ethyl acetate-n-hexane to obtain 11.45 g of the desired product (88.3%, pale yellow solid).

reactant | 4-hydroxypiperidine | 50 mmoles, 5.10 g | OC1CCNCC1 | C5H11NO
reactant | triethylamine | 150 mmoles, 20.9 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 110 mmoles, 8.54 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-methylsulfonyl-4-methylsulfonyloxypiperidine | 11.45 g, 88.3% | CS(=O)(=O)N1CCC(CC1)OS(=O)(=O)C | C7H15NO5S2
